US07378409B2
To a solution of 4-(benzyloxy)-3-tert-butylbenzoic acid (2.36 g, 8.31 mmol) in anhyd DMF (56 mL) was added glycine t-butyl ester (1.63 g, 12.5 mmol), BOP reagent (5.51 g, 12.5 mmol), and N-methylmorpholine (2.74 mL, 24.9 mmol). The mixture was stirred at room temperature for 12 h under nitrogen atmosphere and then diluted with EtOAc (200 mL). The organic layer was washed consecutively with 1 N HCl (250 mL), satd NaHCO3 (100 mL), 5% LiCl (2×100 mL), and brine (50 mL), dried (Na2SO4), and concentrated in vacuo. tert-butyl 2-(4-(benzyloxy)-3-tert-butylbenzamido)acetate (3.37 g, quant.) was isolated as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.81 (s, 1H), 7.63-7.60 (m, 1H), 7.46-7.34 (m, 5H), 6.95-6.93 (m, 1H), 6.52 (s, 1H), 5.16 (s, 2H), 4.14-4.11 (m, 2H), 1.51 (s, 9H), 1.41 (s, 9H); MS found: (M+H)+=398.

reactant | 4-(benzyloxy)-3-tert-butylbenzoic acid | 8.31 mmol, 2.36 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)C(C)(C)C | C18H20O3
reactant | glycine t-butyl ester | 12.5 mmol, 1.63 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | BOP reagent | 12.5 mmol, 5.51 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 24.9 mmol, 2.74 mL | CN1CCOCC1 | C5H11NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 56 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-(4-(benzyloxy)-3-tert-butylbenzamido)acetate | 3.37 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NCC(=O)OC(C)(C)C)C=C1)C(C)(C)C | C24H31NO4
